US09216999B2
rac-1-[(3R,4R)-4-Methylpiperidin-3-yl]-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one hydrochloride
rac-1-[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one (16 mg, 0.043 mmol) and 5% palladium-carbon (15 mg) in methanol (2 mL) was stirred with hydrogen chloride-methanol solution (10 wt %, 20 μL) at 40° C. for 2 hours under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound as a pale yellow solid (15 mg, quantitative yield).

reactant | rac-1-[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 0.043 mmol, 16 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](CC1)C)N1C=CC(C2=CN=C3C(=C12)C=CN3)=O | C23H24N4O
reactant | hydrogen chloride methanol | 20 μL | Cl.CO
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium-carbon | 15 mg | [C].[Pd]
product | rac-1-[(3R,4R)-4-Methylpiperidin-3-yl]-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one hydrochloride | 15 mg, quantitative yield | Cl.C[C@H]1[C@H](CNCC1)N1C=CC(C2=CN=C3C(=C12)C=CN3)=O | InChI=1S/C16H18N4O.ClH/c1-10-2-5-17-9-13(10)20-7-4-14(21)12-8-19-16-11(15(12)20)3-6-18-16;/h3-4,6-8,10,13,17H,2,5,9H2,1H3,(H,18,19);1H/t10-,13+;/m1./s1
